US08686048B2
Intermediate 12: 3-chloro-5-fluoro-3′-propoxybiphenyl-4-amine
The title compound (0.273 g) was prepared from 4-bromo-2-chloro-6-fluoroaniline (0.5 g, 2.2 mmol) and 3-propoxyphenylboronic acid (0.521 g, 2.9 mmol) as a yellow liquid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.44-7.39 (m, 3H), 7.27 (t, J 7.9, 1H), 7.16-7.10 (m, 2H), 5.51 (s, 2H), 3.97 (t, J 6.5, 2H), 1.75-1.70 (m, 2H), 0.98 (t, J 7.9, 3H).

reactant | 4-bromo-2-chloro-6-fluoroaniline | 2.2 mmol, 0.5 g | BrC1=CC(=C(N)C(=C1)F)Cl | C6H4BrClFN
reactant | 3-propoxyphenylboronic acid | 2.9 mmol, 0.521 g | C(CC)OC=1C=C(C=CC1)B(O)O | C9H13BO3
product | 3-chloro-5-fluoro-3′-propoxybiphenyl-4-amine | 0.273 g | ClC=1C=C(C=C(C1N)F)C1=CC(=CC=C1)OCCC | C15H15ClFNO
